US08084483B2
Lithium hydroxide solution (1M aqueous, 358 μL, 0.358 mmol, 3 eq) was added to a solution of ethyl 2-(5-bromo-4-(4-cyclopropylnaphthalen-1-yl)-4H-1,2,4-triazol-3-ylthio)-2-methylpropanoate (55 mg, 0.119 mmol) in THF (1 mL) and methanol (0.5 mL), and the mixture stirred for 2 hours at room temperature. The crude reaction mixture was then concentrated, acidified with HCl (1N) and sonicated to break up solids. Filtration gave 2-(5-bromo-4-(4-cyclopropylnaphthalen-1-yl)-4H-1,2,4-triazol-3-ylthio)-2-methylpropanoic acid as an off-white solid (39 mg, 76%).

reactant | Lithium hydroxide | 0.358 mmol, 1M, 358 μL, 3 eq | [OH-].[Li+]
reactant | ethyl 2-(5-bromo-4-(4-cyclopropylnaphthalen-1-yl)-4H-1,2,4-triazol-3-ylthio)-2-methylpropanoate | 0.119 mmol, 55 mg | BrC=1N(C(=NN1)SC(C(=O)OCC)(C)C)C1=CC=C(C2=CC=CC=C12)C1CC1 | C21H22BrN3O2S
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | methanol | 0.5 mL | CO | CH4O
product | 2-(5-bromo-4-(4-cyclopropylnaphthalen-1-yl)-4H-1,2,4-triazol-3-ylthio)-2-methylpropanoic acid | 39 mg, 76% | BrC=1N(C(=NN1)SC(C(=O)O)(C)C)C1=CC=C(C2=CC=CC=C12)C1CC1 | C19H18BrN3O2S
